US04772600
2-(3-Chlorophenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine
A solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.017 mole), 1,1'-carbonyldiimidazole (3.0 g, 0.018 mole), and anhydrous tetrahydrofuran (100 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 3 hours. The nitrogen flow was stopped and a solution of piperidine (1.6 g, 0.019 mole) in dry tetrahydrofuran (50 ml) was added. The solution was stirred at room temperature under nitrogen for 2 hours. The reaction was concentrated in vacuo and the residue triturated in water (100 ml) and the mix was filtered. The filter cake was recrystallized from isopropyl alcohol-isopropyl ether to give 3.4 g (56%) of off-white flakes, mp 140°-150° C.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.017 mole, 5.0 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.018 mole, 3.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | piperidine | 0.019 mole, 1.6 g | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(3-Chlorophenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(N1CCCCC1)=O | C19H19ClN4O
